US05256393
acetylating 5-amino-N,N'-bis(2,3-dihydroxypropyl)-2,4,6-triiodoisophthalamide with an acetylating agent in N,N,-dimethylacetamide and a catalyst to produce 5-amino-N,N'-bis(2,3-diacetoxypropyl)-2,4,6-triiodoisophthalamide,

reactant | 5-amino-N,N'-bis(2,3-dihydroxypropyl)-2,4,6-triiodoisophthalamide | NC=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)C(=O)NCC(CO)O)I | C14H18I3N3O6
solvent | N,N,-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 5-amino-N,N'-bis(2,3-diacetoxypropyl)-2,4,6-triiodoisophthalamide | NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)C(=O)NCC(COC(C)=O)OC(C)=O)I | C22H26I3N3O10
